US06953797B2
a) [3-(Acetylthio)-3-phenypropyl]methylcarbamic acid, 1,1-dimethylethyl ester
To a stirred solution of triphenylphosphine (1.13 g, 4.32 mmol) in dry tetrahydrofuran (12 ml) was added diisopropyl azodicarboxylate (0.88 ml, 4.32 mmol) dropwise with stirring at 0° C. under nitrogen. After 0.5 h, a solution of (3-hydroxy-3-phenylpropyl)carbamic acid 1,1-dimethylethyl ester (0.572 g, 2.16 mmol) and thiolacetic acid (0.31 ml, 4.34 mmol) in dry tetrahydrofuran (10 ml) was added slowly at 0° C. The mixture was stirred at this temperature for 1 h, then stirred at room temperature overnight. The mixture was evaporated, and then eluted down a flash chromatography column using ether/isohexane (1:9) as eluent to give the product (420 mg, 60%) as a cream coloured solid.

reactant | triphenylphosphine | 4.32 mmol, 1.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 4.32 mmol, 0.88 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | (3-hydroxy-3-phenylpropyl)carbamic acid 1,1-dimethylethyl ester | 2.16 mmol, 0.572 g | CC(C)(C)OC(NCCC(C1=CC=CC=C1)O)=O | C14H21NO3
reactant | thiolacetic acid | 4.34 mmol, 0.31 ml | S1C(=CC=C1)CC(=O)O | C6H6O2S
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [3-(Acetylthio)-3-phenypropyl]methylcarbamic acid, 1,1-dimethylethyl ester | 420 mg, 60% | C(C)(=O)SC(CCN(C(OC(C)(C)C)=O)C)C1=CC=CC=C1 | C17H25NO3S
